US07566712B2
L. Dimethyl-[3-(3-{2-morpholin-4-yl-6-[4-(3-trifluoromethyl-pyridin-2-yl)-piperazin-1-yl]-pyrimidin-4-yl}-phenyl)-propyl]-amine
Dissolve the crude methanesulfonic acid 3-(3-{2-morpholin-4-yl-6-[4-(3-trifluoromethyl-pyridin-2-yl)-piperazin-1-yl]-pyrimidin-4-yl}-phenyl)-propyl ester obtained above in THF and heat with an excess of dimethylamine in a sealed tube at 55° C. Concentrate under reduced pressure and partition the residue between aqueous NaHCO3 and EtOAc. Dry the organic layer (Na2SO4) and concentrate under reduced pressure. Purify the residue using preparative plate TLC (MeOH/DCM eluent) to afford the title compound. 1H NMR (CDCl3): δ 1.17 (m, 2H), 2.27 (s, 6H), 2.37 (t, 2H), 2.72 (t, 2H), 3.40 (m, 4H), 3.80 (m, 8H), 3.87 (m, 4H), 6.37 (s, 1H), 7.03 (m, 1H), 7.25 (d, 1H, J=7.1 Hz), 7.35 (dd, 1H), 7.79 (m, 2H), 7.89 (d, 1H, J=7.87 Hz), 8.46 (d, 1H).

reactant | methanesulfonic acid 3-(3-{2-morpholin-4-yl-6-[4-(3-trifluoromethyl-pyridin-2-yl)-piperazin-1-yl]-pyrimidin-4-yl}-phenyl)-propyl ester | N1(CCOCC1)C1=NC(=CC(=N1)C=1C=C(C=CC1)CCCOS(=O)(=O)C)N1CCN(CC1)C1=NC=CC=C1C(F)(F)F | C28H33F3N6O4S
reactant | dimethylamine | CNC | C2H7N
solvent | THF | C1CCOC1 | C4H8O
product | Dimethyl-[3-(3-{2-morpholin-4-yl-6-[4-(3-trifluoromethyl-pyridin-2-yl)-piperazin-1-yl]-pyrimidin-4-yl}-phenyl)-propyl]-amine | CN(CCCC1=CC(=CC=C1)C1=NC(=NC(=C1)N1CCN(CC1)C1=NC=CC=C1C(F)(F)F)N1CCOCC1)C | C29H36F3N7O
